US06552213B1
In a 3 lit. round-bottomed flask equipped with a thermometer are added aluminum chloride (390.35 gm) and N, N-dimethylaniline (413.10 gm) maintaining the temperature at 40-50° C.(exothermic). To this solution, (E)-1-[4-(benzyloxy)phenyl]-2-[3,5-bis(benzyloxy)phenyl]ethene (243 gm) in dichloromethane (800 ml) is added and stirred for further 0.75 hour. After the reaction is over, the reaction mixture is quenched into dil. hydrochloric acid at 0-5° C. and extracted with ethyl acetate. The organic layer is charcoalized and concentrated to get pure (E)-1-(3,5-dihydroxyphenyl)-2-(4-hydroxyphenyl)ethene (trans-Resveratrol) in the exclusive trans form. Mp 257-259° C. 1H NMR (DMSO-d6, 400 MHz) δ 6.11 (t, J=1.8 Hz, 1H), 6.38(d, J=1.8 Hz, 2H), 6.75 (d, J=8.5 Hz, 2H), 6.82(d, J=16.3 Hz, 1H), 6.92(d, J=16.3, 1H), 7.39(d, J=8.4 Hz, 2H); Mass M/e:228.2

reactant | aluminum chloride | 390.35 gm | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | N, N-dimethylaniline | 413.10 gm | CN(C1=CC=CC=C1)C | C8H11N
reactant | (E)-1-[4-(benzyloxy)phenyl]-2-[3,5-bis(benzyloxy)phenyl]ethene | 243 gm | C(C1=CC=CC=C1)OC1=CC=C(C=C1)\C=C\C1=CC(=CC(=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C35H30O3
solvent | dichloromethane | 800 ml | ClCCl | CH2Cl2
product | (E)-1-(3,5-dihydroxyphenyl)-2-(4-hydroxyphenyl)ethene | OC=1C=C(C=C(C1)O)\C=C\C1=CC=C(C=C1)O | C14H12O3
